US07361671B2
A solution of 2,6-dimethyl-5-(4,5,7-trifluorobenzothiazole-2-yl-methyl)-pyridin-3-yl-acetonitrile (0.50 g, 1.43 mmol) in 50% hydrochloric acid (HCl) (8 ml, 0.2 M) under nitrogen is warmed (90° C. bath) and stirred overnight. The reaction mixture is added to H2O (20 mL) and brought to pH 5 with NaHCO3. The solids are filtered and the aqueous extracted with ethyl acetate (5×30 mL). The solid and extracts are combined and purified by reverse-phase HPLC (acetonitrile/water, 0.05% HCl)to give 2,6-Dimethyl-5-(4,5,7-trifluoro-benzothiazole-2-ylmethyl)-pyridin-3-yl-acetic acid as a white solid (0.40 g, 75%): mp 211° C. dec 1H NMR (DMSO-d6, 300 MHz) δ 8.29 (s, 1 H), 7.85-7.74 (m, 1 H), 4.80 (s, 2 H), 3.86 (s, 2 H), 2.73 (s, 3 H), 2.67 (s, 3 H), ESI-LCMS m/z calcd for C17H13F3N2O2S: 366.1; found 367.0 (M+1)+. Anal. Calcd for C17H14ClF3N2O2S: C, 50.69; H, 3.50; N, 6.95; Cl, 8.80; S; 7.96. Found: C, 50.48; H, 3.63; N, 6.89; Cl, 8.97; S, 7.84.

reactant | 2,6-dimethyl-5-(4,5,7-trifluorobenzothiazole-2-yl-methyl)-pyridin-3-yl-acetonitrile | 1.43 mmol, 0.50 g | CC1=NC(=C(C=C1CC#N)CC=1SC2=C(N1)C(=C(C=C2F)F)F)C | C17H12F3N3S
reactant | H2O | 20 mL | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | hydrochloric acid | 0.2 M, 8 ml | Cl | ClH
product | 2,6-Dimethyl-5-(4,5,7-trifluoro-benzothiazole-2-ylmethyl)-pyridin-3-yl-acetic acid | 0.40 g, 75% | CC1=NC(=C(C=C1CC(=O)O)CC=1SC2=C(N1)C(=C(C=C2F)F)F)C | C17H13F3N2O2S
